US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(methylsulfonylmethyl)benzenesulfonamide
To a stirred solution of 2-(methylsulfonylmethyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (680 mg, 1.8 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (400 mg, 2.7 mmol) in 10 mL of ACN was added pyridine (290 uL, 3.6 mmol) dropwise. The reaction mixture was stirred at room temperature for 16 hours. After the mixture was concentrated, the residue was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated. A solution of this crude compound in 7M ammonium in MeOH (10 mL) was stirred in a sealed tube at 50° C. for 4 hours. After concentrated, the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a white solid (498 mg, yield 70%). MS calcd for (C15H17BN2O6S2): 396.2. MS found (ESI negative): (M−H)−=395.1. 1H NMR (DMSO-d6) δ (ppm): 9.95 (s, 1H), 9.20 (bs, 1H), 7.54 (d, J=8.8 Hz, 1H), 7.41 (s, 1H), 7.21 (d, J=8.4 Hz, 1H), 7.07 (d, J=8.0 Hz, 1H), 6.72 (s, 1H), 6.47 (d, J=8.8 Hz, 1H), 4.85 (s, 2H), 4.71 (s, 2H), 2.82 (s, 3H).

reactant | 2-(methylsulfonylmethyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 1.8 mmol, 680 mg | CS(=O)(=O)CC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C10H9ClF3NO5S2
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 2.7 mmol, 400 mg | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 3.6 mmol, 290 uL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(methylsulfonylmethyl)benzenesulfonamide | 498 mg, yield 70% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CS(=O)(=O)C | C15H17BN2O6S2
